US05362725
3(c) 2-(1,2,3,4,10,14b-Hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)ethanol
A suspension of 0.251 g of lithium aluminum hydride in 20 ml of tetrahydrofuran was added, whilst ice-cooling, over a period of 10 minutes to a solution of 2.22 g of ethyl (1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)acetate [prepared by the same procedure as described in Example 3(b)] dissolved in 15 ml of tetrahydrofuran, under an atmosphere of nitrogen. The mixture was then stirred at 0° C. for 30 minutes and at room temperature for 2 hours, after which 2 ml of a saturated aqueous solution of ammonium chloride were added. The mixture was filtered, and the filtrate was extracted with ethyl acetate. The extract was washed with water and concentrated by evaporation under reduced pressure, to afford 1.65 g (yield 85%) of the title compound, melting at 123°-125 ° C.

reactant | lithium aluminum hydride | 0.251 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl (1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)acetate | 2.22 g | C1N(CCN2C1C1=C(CC3=C2C=CC=C3)C=CC=C1)CC(=O)OCC | C21H24N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(1,2,3,4,10,14b-Hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)ethanol | 1.65 g, yield 85% | C1N(CCN2C1C1=C(CC3=C2C=CC=C3)C=CC=C1)CCO | C19H22N2O
